US07799805B2
(4-Chloro-3-cyclopropylaminomethyl-benzyl)-ethyl-carbamic acid tert-butyl ester
A mixture of (4-chloro-3-formyl-benzyl)-ethyl-carbamic acid tert-butyl ester (240 mg, 0.806 mmol), cyclopropylamine (0.085 mL, 1.2 mmol) and Et3N (0.169 mL, 1.21 mmol) in MeOH (2.7 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (76.2 mg, 2.01 mmol) was added. The mixture was stirred for 1 h at rt, and aq. sat. NaHCO3 was added. The mixture was extracted several times with EtOAc. The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (MeOH/CH2Cl2 1:49) yielded the title compound (125 mg, 46%). LC-MS: tR=0.78 min; ES+: 380.20.

reactant | (4-chloro-3-formyl-benzyl)-ethyl-carbamic acid tert-butyl ester | 0.806 mmol, 240 mg | C(C)(C)(C)OC(N(CC)CC1=CC(=C(C=C1)Cl)C=O)=O | C15H20ClNO3
reactant | cyclopropylamine | 1.2 mmol, 0.085 mL | C1(CC1)N | C3H7N
reactant | Et3N | 1.21 mmol, 0.169 mL | CCN(CC)CC | C6H15N
reactant | NaBH4 | 2.01 mmol, 76.2 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2.7 mL | CO | CH4O
product | (4-Chloro-3-cyclopropylaminomethyl-benzyl)-ethyl-carbamic acid tert-butyl ester | 125 mg, 46% | C(C)(C)(C)OC(N(CC)CC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C18H27ClN2O2
